US04697012
Step B: Preparation of α-bromo-3-methoxy-4- acetylpyridine hydrobromide
A solution of pyridinium hydrobromide perbromide (2.33 g, 0.0073 mol) in acetic acid (20 mL) containing 31% hydrobromic acid in acetic acid (1.85 mL) was stirred at room temperature for four hours. The mixture was cooled to 17° C. and a solution of 3-methoxy-4-acetylpyridine (1.02 g, 0.0062 mol) in acetic acid (5 mL) was added. The cooling bath was removed and after about thirty minutes a yellow solid was deposited. Ether (25 mL) was added and the crude α-bromo-3-methoxy-4-acetylpyridine hydrobromide (1.60 g) was collected by filtration washed with ether and air dried.

reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | hydrobromic acid | Br | BrH
reactant | 3-methoxy-4-acetylpyridine | 0.0062 mol, 1.02 g | COC=1C=NC=CC1C(C)=O | C8H9NO2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.85 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | α-bromo-3-methoxy-4- acetylpyridine hydrobromide | Br.BrCC(=O)C1=C(C=NC=C1)OC | InChI=1S/C8H8BrNO2.BrH/c1-12-8-5-10-3-2-6(8)7(11)4-9;/h2-3,5H,4H2,1H3;1H
